US05670505
To a stirred solution of (2R)-2-benzyl-1-[3,5-bis(trifluoromethyl)benzoyl]piperazine (0.3 g) in dry dimethylformamide (3 ml) containing dry pyridine (0.06 my was added a solution of 2-phenoxyacetyl chloride (0.12 g) in dry dimethylformamide (1 ml) at 0° C., and the mixture was stirred at the same temperature for 30 minutes and then at room temperature for 30 minutes. Additional pyridine (0.02 ml) and a solution of 2-phenoxyacetyl chloride (0.025 g) in dry dimethylformamide (0.3 ml) were added to the reaction mixture. After being stirred for 30 minutes, the mixture was poured into water (43 ml) and extracted with ethyl acetate. The extract was washed with brine and dried over magnesium sulfate. After evaporation of the solvent, the residue was purified by a silica gel column chromatography. Elution with toluene-ethyl acetate afforded (2R)-2-benzyl-1-[3,5-bis(trifluoromethyl)benzoyl]-4-(2-phenoxyacetyl)piperazine (0.34 g) as a white powder.

reactant | (2R)-2-benzyl-1-[3,5-bis(trifluoromethyl)benzoyl]piperazine | 0.3 g | C(C1=CC=CC=C1)[C@H]1N(CCNC1)C(C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O | C20H18F6N2O
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | 2-phenoxyacetyl chloride | 0.12 g | O(C1=CC=CC=C1)CC(=O)Cl | C8H7ClO2
reactant | pyridine | 0.02 ml | N1=CC=CC=C1 | C5H5N
reactant | 2-phenoxyacetyl chloride | 0.025 g | O(C1=CC=CC=C1)CC(=O)Cl | C8H7ClO2
reactant | water | 43 ml | O | H2O
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 0.3 ml | CN(C=O)C | C3H7NO
product | (2R)-2-benzyl-1-[3,5-bis(trifluoromethyl)benzoyl]-4-(2-phenoxyacetyl)piperazine | 0.34 g | C(C1=CC=CC=C1)[C@H]1N(CCN(C1)C(COC1=CC=CC=C1)=O)C(C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O | C28H24F6N2O3
